US07491737B2
Step G: 3-Fluoro-5-trifluoromethylbenzyl 3-oxo-1-isopropylpentane-carboxamide
A solution of 3-fluoro-5-trifluoromethylbenzylamine (3.07 g, 15.9 mmol) and diisopropylethylamine (2.77 mL, 15.9 mmol) in dichloromethane (60 mL) was slowly treated with 1-isopropyl-3-oxocyclopentanoyl chloride (3.0 g, 15.9 mmol) and stirred at ambient temperature overnight. The mixture was diluted with dichloromethane washed with a saturated solution of sodium bicarbonate, 2N HCl, water and brine. The organic phase was dried with anhydrous magnesium sulfate and the solvent was evaporated in vacuo to yield 6.0 g of crude product. This was further purified by column chromatography (silica gel, ethyl acetate hexane (40:60%) to yield 4.10 g (85%) of the pure product. 1H NMR (500 MHz, CDCl3): 7.32 (s, 1H), 7.23 (d, J=8.23 Hz, 1H), 7.19 (d, J=8.93 Hz, 1H), 4.52 (m, 2H), 2.79 (d, J=18.53 Hz, 1H), 2.40 to 2.18 (bm, 4H), 2.0 (m, 2H), 0.98 (d, J=6.63 Hz, 3H), 0.96 (d, 6.60 Hz, 3H).

reactant | 3-fluoro-5-trifluoromethylbenzylamine | 15.9 mmol, 3.07 g | FC=1C=C(CN)C=C(C1)C(F)(F)F | C8H7F4N
reactant | diisopropylethylamine | 15.9 mmol, 2.77 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-isopropyl-3-oxocyclopentanoyl chloride | 15.9 mmol, 3.0 g | C(C)(C)C1(CC(CC1)=O)C(=O)Cl | C9H13ClO2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 3-Fluoro-5-trifluoromethylbenzyl 3-oxo-1-isopropylpentane-carboxamide | 4.10 g, 85% | FC=1C=C(CC(CC(CC)=O)(C(=O)N)C(C)C)C=C(C1)C(F)(F)F | C17H21F4NO2
